* source PROIECT1_TEST3
V_V1         VAC 0 DC 0Vdc AC 100mVac 
R_R1         0 VAC  150k TC=0,0 
V_VEE         0 VEE 12Vdc
R_R2         VEE N002520  68 TC=0,0 
R_R3         VEE N08317  68 TC=0,0 
R_R4         N00563 N005260  10 TC=0,0 
R_R5         VEE N00563  10 TC=0,0 
R_R6         N00755 N00813  68 TC=0,0 
R_R7         N00697 N00813  68 TC=0,0 
R_R8         N00956 VCC  330 TC=0,0 
R_R9         N01096 VCC  68 TC=0,0 
R_R10         N01615 N01200  100 TC=0,0 
R_R11         N01664 N01615  100 TC=0,0 
R_R12         N01726 N01808  2k TC=0,0 
R_R13         N01808 VOUT  1k TC=0,0 
R_R15         0 VOUT  10 TC=0,0 
D_D1         N03391 VCC D1N4148_1 
D_D2         N03379 N03391 D1N4148_1 
Q_Q1         N00813 N03379 N00956 BC856_1 
Q_Q2         N01200 N03379 N01096 BC856_1 
Q_Q3         VEE N01664 VOUT BC856_1 
Q_Q5         N00393 VAC N00697 BC856_1 
Q_Q6         N00310 N00310 N08317 BC846_1 
Q_Q7         N00393 N00310 N002520 BC846_1 
Q_Q8         N01664 N00393 N005260 BC846_1 
Q_Q10         N01200 N01615 N01664 BC846_1 
R_R14         0 N01726  1k TC=0,0 
Q_Q13         VCC N01200 VOUT BC846_1 
Q_Q14         N00310 N01726 N00755 BC856_1 
V_VCC         VCC 0 12Vdc
C_C1         N00393 N01664  100p  TC=0,0 
R_R18         N24266 N03379  33 TC=0,0 
R_R19         N24278 N24266  100 TC=0,0 
R_R23         N24278 N248370  100 TC=0,0 
R_R24         N248370 0  100 TC=0,0 
